US06432993B1
t-Butyl N-[5-(4-hydroxy-2,3-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 2,3-dimethylhydroquinone (1.38 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.87 g), sodium hydride (55 wt. %, 0.87 g) and anhydrous N-N-dimethylformamide (20 ml) and the reaction mixture was purified to give the title compound (1.92 g).

reactant | 2,3-dimethylhydroquinone | 1.38 g | CC1=C(O)C=CC(=C1C)O | C8H10O2
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.87 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.87 g | [H-].[Na+]
product | t-Butyl N-[5-(4-hydroxy-2,3-dimethylphenoxy)-2-nitrophenyl]-N-methylcarbamate | 1.92 g | OC1=C(C(=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1)C)C | C20H24N2O6
